US04900653
To a slurry of 4-methylsulfonamidobenzoylacetonitrile (7.0 g) in acetonitrile (70 ml), diethoxymethylacetate (16.2 g) was added and the mixture heated at reflux for 30 minutes. The mixture was cooled to room temperature and filtered. The filtrate was poured into 600 ml diethyl ether, after which 800 ml ligroin P950 was added with rapid stirring. A light yellow oil formed in droplets, which spontaneously crystallized. The crystalline product was collected by filtration, washed with ligroin P950, and dried to yield 7.1 g of 2-(ethoxymethylidene)-2-(4'-methylsulfonamidobenzoyl)-acetonitrile.

reactant | 4-methylsulfonamidobenzoylacetonitrile | 7.0 g | CS(=O)(=O)NC1=CC=C(C(=O)CC#N)C=C1 | C10H10N2O3S
reactant | diethoxymethylacetate | 16.2 g | C(C)OC(OCC)OC(C)=O | C7H14O4
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | 2-(ethoxymethylidene)-2-(4'-methylsulfonamidobenzoyl)-acetonitrile | 7.1 g | C(C)OC=C(C#N)C(C1=CC=C(C=C1)NS(=O)(=O)C)=O | C13H14N2O4S
